US09233920B2
To a stirred solution of 4-[(3R)-3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-2,4-dihydropyrrol-5-yl]-2-methyl-benzoic acid (68 mg) in dichloromethane (2.5 mL) was added triethylamine (0.05 mL) at ambient temperature. The solution was then stirred for 5 min under argon and trifluoroacetate salt of 1,1-Dioxo-llambda*6*-thietan-3-ylamine (46 mg) was added. To this solution, 1-hydroxyazabenzotriazole (25 mg) then 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (35 mg) were added. The solution was stirred at ambient temperature for 3 days. The reaction mixture was diluted with ethyl acetate and washed with water. The combined organic phases were dried over anhydrous sodium sulfate, the suspension was filtered and the solution was evaporated to give a crude residue which was purified by chromatography on silica gel (eluent: heptane/ethyl acetate, from 1:0 to 6:4) to give 4-[(3R)-3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-2,4-dihydropyrrol-5-yl]-N-(1,1-dioxothietan-3-yl)-2-methyl-benzamide (30 mg) as a white solid.

reactant | 4-[(3R)-3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-2,4-dihydropyrrol-5-yl]-2-methyl-benzoic acid | 68 mg | ClC=1C=C(C=C(C1)Cl)[C@]1(CN=C(C1)C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C19H14Cl2F3NO2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | 1,1-Dioxo-llambda*6*-thietan-3-ylamine | 46 mg | O=S1(CC(C1)N)=O | C3H7NO2S
reactant | 1-hydroxyazabenzotriazole | 25 mg | ON1N=NC2=C1C=CC=N2 | C5H4N4O
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 35 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.05 mL | C(C)N(CC)CC | C6H15N
product | 4-[(3R)-3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-2,4-dihydropyrrol-5-yl]-N-(1,1-dioxothietan-3-yl)-2-methyl-benzamide | 30 mg | ClC=1C=C(C=C(C1)Cl)[C@]1(CN=C(C1)C1=CC(=C(C(=O)NC2CS(C2)(=O)=O)C=C1)C)C(F)(F)F | C22H19Cl2F3N2O3S
